US08124629B2
A 2 L round bottom flask containing 1-benzyloxy-3-chloromethyl-7-fluoro-2-methyl-naphthalene (10.84 g, 34.44 mmol), PdCl2(PPh3)2 (1.22 g 1.72 mmol, 0.05 eq), and potassium carbonate (5.04 g, 36.50 mmol, 1.06 eq) was evacuated and then backfilled with carbon monoxide gas. A balloon of carbon monoxide was connected into the reaction flask to provide an extra reservoir of CO gas. Tetrahydrofuran (120 mL) was added to the reaction mixture, followed by methanol (58 mL). The reaction mixture was stirred at room temperature for 3 hours, and then diluted with water (600 mL). The resulting mixture was extracted twice with 300 mL portions of ethyl acetate. The combined organic layers were washed with water and brine, dried over MgSO4, filtered, and concentrated to obtain 12.6 g of the crude product. Flash chromatography (Analogix SuperFlash™, 0-15% ethyl acetate in hexane) was used to isolate 11.7 g (quantitative yield) of (4-benzyloxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid methyl ester as a clear, colorless oil that crystallized upon standing at room temperature. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.96 (dd, J=9.1, 5.7 Hz, 1 H), 7.65 (s, 1 H), 7.52-7.62 (m, 3 H), 7.32-7.50 (m, 4 H), 4.94 (s, 2 H), 3.89 (s, 2 H), 3.64 (s, 3 H), 2.31 (s, 3 H).

reactant | 1-benzyloxy-3-chloromethyl-7-fluoro-2-methyl-naphthalene | 34.44 mmol, 10.84 g | C(C1=CC=CC=C1)OC1=C(C(=CC2=CC=C(C=C12)F)CCl)C | C19H16ClFO
reactant | potassium carbonate | 36.50 mmol, 5.04 g, 1.06 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
reactant | methanol | 58 mL | CO | CH4O
solvent | water | 600 mL | O | H2O
solvent | hexane | CCCCCC | C6H14
catalyst | PdCl2(PPh3)2 | 1.72 mmol, 1.22 g, 0.05 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-benzyloxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid methyl ester | 11.7 g, quantitative yield | COC(CC1=CC2=CC=C(C=C2C(=C1C)OCC1=CC=CC=C1)F)=O | C21H19FO3
